US04065618
p-Nitrobenzyl 7-phenylacetamido-3-bromo-3-cephem-4-carboxylate is reacted with dimethylamine by following the reaction conditions of Example 4 to provide p-nitrobenzyl 7-phenylacetamido3-dimethylamino-3-cephem-4-carboxylate.

reactant | p-Nitrobenzyl 7-phenylacetamido-3-bromo-3-cephem-4-carboxylate | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Br)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H18BrN3O6S
reactant | dimethylamine | CNC | C2H7N
product | p-nitrobenzyl 7-phenylacetamido3-dimethylamino-3-cephem-4-carboxylate | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)N(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C24H24N4O6S
